US08703808B2
(Z)-2-(5-methoxy-1H-indol-3-yl)-3-thiophen-3-yl-acrylonitrile
To a solution of sodium methanolate (204 mg, 3.8 mmol, 1.4 eq.) in anhydrous ethanol (30 mL) were added, under an argon atmosphere, (5-methoxy-1H-indol-3-yl)-acetonitrile (500 mg, 2.7 mmol, 1.0 eq.) and, after 30 minutes stirring, thiophen-3-carbaldehyde (235 μL, 2.7 mmol, 1.0 eq.). The reaction apparatus was protected from light and the mixture heated at 50° C. for 18 hours. The reaction was allowed to cool to room temperature and then, the solvent was removed under reduced pressure and the crude taken up in ethyl acetate. The organic layer was washed with water and brine, dried over MgSO4 and then, evaporated. The residue was purified by silica gel flash-column chromatography (eluent: CH2Cl2) to afford, after trituration with heptane and diethyl ether, the compound (50) as a beige solid (310 mg, 41%). IR νmax (cm−1): 2212 (νCN), 3340 (νN—H); 1H NMR (DMSO, 300 MHz) δ (ppm): 3.82 (3H, s, 5′-methoxy), 6.88 (1H, dd, J6′-7′=8.9 Hz, J6′-4′=2.4 Hz, H6′), 7.38 (1H, d, J7′-6′=8.9 Hz, H7′), 7.42 (1H, d, J4′-6′=2.4 Hz, H4′), 7.69 (1H, d, J4″-5″=5.1 Hz, H4″), 7.70 (1H, m, H3), 7.72 (1H, m, H2′), 7.79 (1H, dd, J5″-4″=5.1 Hz, J5″-2″=1.3 Hz, H5″), 8.10 (1H, m, H2″), 11.54 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz) δ (ppm): 55.5 (5′-methoxy), 101.7 (C4′), 103.8 (C2), 109.9 (C3′), 112.1 (C6′), 113.0 (C7′), 118.1 (C1), 124.0 (C3a′), 126.5 (C4″ and C5″), 127.3 (C2′), 128.0 (C2″), 130.6 (C3), 132.2 (C7a′), 136.6 (C3″), 154.3 (C5′); ESI-MS: m/z 281.1 ([M+H]+), 303.1 ([M+Na]+); HRESI-MS: m/z 303.0568 (calcd for C16H12N2ONaS+, 303.0568).

reactant | sodium methanolate | 3.8 mmol, 204 mg, 1.4 eq. | C[O-].[Na+]
reactant | (5-methoxy-1H-indol-3-yl)-acetonitrile | 2.7 mmol, 500 mg, 1.0 eq. | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | thiophen-3-carbaldehyde | 2.7 mmol, 235 μL, 1.0 eq. | S1C=C(C=C1)C=O | C5H4OS
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | heptane | 310 mg | CCCCCCC | C7H16
solvent | diethyl ether | C(C)OCC | C4H10O
product | (Z)-2-(5-methoxy-1H-indol-3-yl)-3-thiophen-3-yl-acrylonitrile | COC=1C=C2C(=CNC2=CC1)/C(/C#N)=C/C1=CSC=C1 | C16H12N2OS
